US06586475B1
tert-Butyl 2-[4-(4-biphenylylmethoxy)phenylacetylamino]ethyl(methyl)carbamate
4-(4-Biphenylylmethoxy)phenylacetic acid (1.51 g), tert-butyl 2-aminoethyl(methyl)carbamate (826 mg), WSC (1 g), 1-hydroxybenzotriazole (798 mg), and triethylamine (2.2 ml) were added to THF (90 ml). The reaction mixture was stirred at room temperature for 20 hr and poured onto water, followed by extraction with ethyl acetate-THF (1:1). The organic layer was washed with water, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride sequentially, dried with sodium sulfate, and concentrated. The residue was purified by alumina column chromatography (eluent; methanol:THF=1:1) followed by recrystallization from THF-IPE gave the titled compound (888 mg).

reactant | 4-(4-Biphenylylmethoxy)phenylacetic acid | 1.51 g | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C21H18O3
reactant | tert-butyl 2-aminoethyl(methyl)carbamate | 826 mg | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
reactant | WSC | 1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 798 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 2-[4-(4-biphenylylmethoxy)phenylacetylamino]ethyl(methyl)carbamate | 888 mg | C1(=CC=C(C=C1)COC1=CC=C(C=C1)CC(=O)NCCN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C29H34N2O4
